US06995144B2
2-(1-Benzylpiperidin-4-yl)-1-(2-methoxyphenyl)ethanol
After dissolving 2.04 g of 2-bromoanisole in 22 ml of tetrahydrofuran, 3.6 ml of n-butyllithium (2.66 M, n-hexane solution) was added dropwise while stirring at below −60° C., and after 30 minutes, a solution of 1.58 g of 1-benzylpiperidine-4-acetaldehyde in tetrahydrofuran (5 ml) was added and stirring was continued for 30 minutes. Saturated aqueous ammonium chloride solution was added, the temperature was raised to room temperature, and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (1.63 g, 69% yield).

reactant | 2-bromoanisole | 2.04 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | 1-benzylpiperidine-4-acetaldehyde | 1.58 g | C(C1=CC=CC=C1)N1CCC(CC1)CC=O | C14H19NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
solvent | n-butyllithium | 2.66 M, 3.6 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(1-Benzylpiperidin-4-yl)-1-(2-methoxyphenyl)ethanol | 1.63 g, 69% yield | C(C1=CC=CC=C1)N1CCC(CC1)CC(O)C1=C(C=CC=C1)OC | C21H27NO2
